US05688955
N-Methyl-N-[(1S)-1-phenyl-2-((3S)-3-hydroxypyrrolidine-1-yl)ethyl]-3,4,5-trimethoxyphenylacetamide HCl (A)
To a solution of 3,4,5-Trimethoxyphenylacetic acid (1.0 g, 4.43 mmol) in 10 mL of CH2Cl2 under a nitrogen atmosphere was added pyridine (0.12 g, 1.5 mmol) and N,N-diisopropylethylamine (Hunig's Base) (0.57 g, 4.43 mmol). The reaction mixture was cooled to 0° C. and DCC (1.37 g, 6.65 mmol) was added in one portion. The reaction mixture was stirred at this temperature and a solution of the diaminel (0.65 g, 3.0 mmol) in 10 mL of CH2Cl2 was added and the stirring was continued while warming to room temperature for 20 h. The reaction mixture was poured onto an aqueous saturated solution of NaHCO3 and the mixture was stirred for 30 min. The organic layer was separated and dried over anhydrous Na2SO4. After removal of the solvent, the product was purified on a silica gel column [solvent system: CHCl3 :CH3OH:28% NH4OH (98:2:2)]. The free base was converted to the hydrochloride salt from 1M etherial HCl and recrystallized form CH2Cl2 :Et2O (1:1) to give a HCl 0.64 g (46%) as light pink solid; mp 230°-232° C.; 1H-NMR (200 MHz, CDCl3) δ 2.20 (m, 4H), 2.85 (s, 3H), 3.00-4.30 (m, 5H), 3.70 (ms, 9H), 4.50(m2H), 5.30 (d, J=15.0 Hz, 1H), 6.50 (m, 3H), 7.28 (m, 5H). Anal. Calcd for C24H32N2O5.HCl.0.25H2O: C, 61.40; H, 7.19; N, 5.97. Found: C, 61.36; H, 6.84; 8.96; N, 5.91.

reactant | 3,4,5-Trimethoxyphenylacetic acid | 4.43 mmol, 1.0 g | COC=1C=C(C=C(C1OC)OC)CC(=O)O | C11H14O5
reactant | pyridine | 1.5 mmol, 0.12 g | N1=CC=CC=C1 | C5H5N
reactant | N,N-diisopropylethylamine | 4.43 mmol, 0.57 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DCC | 6.65 mmol, 1.37 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-[(1S)-1-phenyl-2-((3S)-3-hydroxypyrrolidine-1-yl)ethyl]-3,4,5-trimethoxyphenylacetamide HCl | 0.64 g, 46% | Cl.CN(C(CC1=CC(=C(C(=C1)OC)OC)OC)=O)[C@H](CN1C[C@H](CC1)O)C1=CC=CC=C1 | InChI=1S/C24H32N2O5.ClH/c1-25(20(18-8-6-5-7-9-18)16-26-11-10-19(27)15-26)23(28)14-17-12-21(29-2)24(31-4)22(13-17)30-3;/h5-9,12-13,19-20,27H,10-11,14-16H2,1-4H3;1H/t19-,20+;/m0./s1
